US04892885
To a solution of 50.0 g of 2-bromobenzaldehyde in 50 ml of toluene was added ;b 25.0 ml of ethylene glycol plus 500 mg of p-toluenesulfonic acid. The mixture was heated at reflux with a Dean Stark Trap for 18 hours. Then an additional 10 ml of ethylene glycol was added to the mixture and reflux was continued for 4 hours longer. The solvent was evaporated in vacuo and the residue was dissolved in ether. The organic solution was washed with 5% sodium bicarbonate, dried over magnesium sulfate and filtered. The filtrate was evaporated to an oil which was distilled through a Kugelrohr apparatus. The fraction boiling at 130° C., 0.1 mm was collected giving 60.3 g of 2-(2-bromophenyl)-1,3-dioxolane.

reactant | 2-bromobenzaldehyde | 50.0 g | BrC1=C(C=O)C=CC=C1 | C7H5BrO
reactant | ethylene glycol | 25.0 ml | C(CO)O | C2H6O2
reactant | p-toluenesulfonic acid | 500 mg | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
reactant | ethylene glycol | 10 ml | C(CO)O | C2H6O2
solvent | toluene | 50 ml | C1(=CC=CC=C1)C | C7H8
product | 2-(2-bromophenyl)-1,3-dioxolane | 60.3 g | BrC1=C(C=CC=C1)C1OCCO1 | C9H9BrO2
